US04719054
Analogously to Direction II(b), 7.8 g of 15α-benzoyloxy-18-methyl-4-estrene-3,17-dione is reacted with dimethoxypropane and worked up, thus obtaining 6.8 g of 15α-benzoyloxy-3-methoxy-18-methyl-3,5-estradien-17-one as a foam.

reactant | 15α-benzoyloxy-18-methyl-4-estrene-3,17-dione | 7.8 g | C(C1=CC=CC=C1)(=O)O[C@H]1CC([C@]2(CC)[C@@H]1[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)=O | C26H30O4
reactant | dimethoxypropane | COC(C)(C)OC | C5H12O2
product | 15α-benzoyloxy-3-methoxy-18-methyl-3,5-estradien-17-one | 6.8 g | C(C1=CC=CC=C1)(=O)O[C@H]1CC([C@]2(CC)[C@@H]1[C@@H]1CC=C3C=C(CC[C@@H]3[C@H]1CC2)OC)=O | C27H32O4
